US06071921
Thionyl chloride (0.3 ml) was added to a solution of 4-hydroxymethyl-2-methylpyridine (240 mg, 1.9 mmol) in toluene (10 ml) and the mixture stirred at ambient temperature for 2 hours. The volatiles were removed by evaporation, the residue azeotroped with toluene and dried under vacuum to give crude 4-chloromethyl-2-methylpyridine hydrochloride which was used directly. This product was then added to a mixture of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (510 mg, 1.6 mmol), (prepared as described for the starting material in Example 24), and potassium carbonate (1.4 g 10 mmol) in DMF (8 ml) for 90 hours. The mixture was diluted with water and the precipitated solid collected by filtration, washed with water and dried to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-((2-methyl-4-pyridyl)methoxy)quinazoline (290 mg, 43%), a sample was recrystallised from ethyl acetate/hexane.

reactant | Thionyl chloride | 0.3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-hydroxymethyl-2-methylpyridine | 1.9 mmol, 240 mg | OCC1=CC(=NC=C1)C | C7H9NO
reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 1.6 mmol, 510 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | potassium carbonate | 10 mmol, 1.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-((2-methyl-4-pyridyl)methoxy)quinazoline | 290 mg, 43% | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC2=CC(=NC=C2)C)C=C1)F | C22H18ClFN4O2
